US07943788B2
1-(Benzo[b]thiophen-2-ylmethyl)-3-bromo-5-methylbenzene
3,5-Dibromotoluene and benzo[b]thiophene-2-carboxaldehyde were treated in a manner similar to Reference Example 1 to give the target compound.

reactant | 3,5-Dibromotoluene | BrC=1C=C(C=C(C1)Br)C | C7H6Br2
reactant | benzo[b]thiophene-2-carboxaldehyde | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
product | 1-(Benzo[b]thiophen-2-ylmethyl)-3-bromo-5-methylbenzene | S1C2=C(C=C1CC1=CC(=CC(=C1)C)Br)C=CC=C2 | C16H13BrS
